US04192944
Preparation 7: Ethyl 2-Cyano-3-(5-ethyl-2-pyridylamino)acrylate
The title compound (m.p. 155°-156°, 25.4% yield) was prepared from 2-amino-5-ethylpyridine and ethyl ethoxymethylenecyanoacetate in a manner similar to that described for the preparation of ethyl 2-cyano-3-(5-methyl-2-pyridylamino)acrylate in Preparation 6.

reactant | 2-amino-5-ethylpyridine | NC1=NC=C(C=C1)CC | C7H10N2
reactant | ethyl ethoxymethylenecyanoacetate | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | ethyl 2-cyano-3-(5-methyl-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=C(C=C1)C | C12H13N3O2
product | Ethyl 2-Cyano-3-(5-ethyl-2-pyridylamino)acrylate | 25.4% yield | C(#N)C(C(=O)OCC)=CNC1=NC=C(C=C1)CC | C13H15N3O2
